*-- pdngen: spice deck generated for chip 'chiplet1' PDN
*-- die chiplet1:  W/H: 0.002/0.003
*-- die chiplet1:  metal layers: 2


.subckt chiplet1
+ns_pad_port_0_0
+nd_pad_port_0_1
+ns_pad_port_0_2
+nd_pad_port_0_3
+ns_pad_port_0_4
+nd_pad_port_0_5
+nd_pad_port_1_0
+ns_pad_port_1_1
+nd_pad_port_1_2
+ns_pad_port_1_3
+nd_pad_port_1_4
+ns_pad_port_1_5
+ns_pad_port_2_0
+nd_pad_port_2_1
+ns_pad_port_2_2
+nd_pad_port_2_3
+ns_pad_port_2_4
+nd_pad_port_2_5
+nd_pad_port_3_0
+ns_pad_port_3_1
+nd_pad_port_3_2
+ns_pad_port_3_3
+nd_pad_port_3_4
+ns_pad_port_3_5
*-- p/g port #: 12/12
+nd_1_0_3000_8666

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_666 nd_1_0_3000_666 0.016324
rd_1_2_0_0_1 nd_1_0_3000_666 nd_1_0_5000_666 0.016324
rd_1_2_0_0_2 nd_1_0_5000_666 nd_1_0_7000_666 0.016324
rd_1_2_0_0_3 nd_1_0_7000_666 nd_1_0_9000_666 0.016324
rd_1_2_0_1_0 nd_1_0_1000_2000 nd_1_0_3000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_2000 nd_1_0_5000_2000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_2000 nd_1_0_7000_2000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_2000 nd_1_0_9000_2000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_3333 nd_1_0_3000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_3000_3333 nd_1_0_5000_3333 0.016324
rd_1_2_0_2_2 nd_1_0_5000_3333 nd_1_0_7000_3333 0.016324
rd_1_2_0_2_3 nd_1_0_7000_3333 nd_1_0_9000_3333 0.016324
rd_1_2_0_3_0 nd_1_0_1000_4666 nd_1_0_3000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_3000_4666 nd_1_0_5000_4666 0.016324
rd_1_2_0_3_2 nd_1_0_5000_4666 nd_1_0_7000_4666 0.016324
rd_1_2_0_3_3 nd_1_0_7000_4666 nd_1_0_9000_4666 0.016324
rd_1_2_0_4_0 nd_1_0_1000_6000 nd_1_0_3000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_6000 nd_1_0_5000_6000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_6000 nd_1_0_7000_6000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_6000 nd_1_0_9000_6000 0.016324
rd_1_2_0_5_0 nd_1_0_1000_7333 nd_1_0_3000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_3000_7333 nd_1_0_5000_7333 0.016324
rd_1_2_0_5_2 nd_1_0_5000_7333 nd_1_0_7000_7333 0.016324
rd_1_2_0_5_3 nd_1_0_7000_7333 nd_1_0_9000_7333 0.016324
rd_1_2_0_6_0 nd_1_0_1000_8666 nd_1_0_3000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_3000_8666 nd_1_0_5000_8666 0.016324
rd_1_2_0_6_2 nd_1_0_5000_8666 nd_1_0_7000_8666 0.016324
rd_1_2_0_6_3 nd_1_0_7000_8666 nd_1_0_9000_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
rs_1_2_0_0_0 ns_1_0_0_0 ns_1_0_2000_0 0.016324
rs_1_2_0_0_1 ns_1_0_2000_0 ns_1_0_4000_0 0.016324
rs_1_2_0_0_2 ns_1_0_4000_0 ns_1_0_6000_0 0.016324
rs_1_2_0_0_3 ns_1_0_6000_0 ns_1_0_8000_0 0.016324
rs_1_2_0_1_0 ns_1_0_0_1333 ns_1_0_2000_1333 0.016324
rs_1_2_0_1_1 ns_1_0_2000_1333 ns_1_0_4000_1333 0.016324
rs_1_2_0_1_2 ns_1_0_4000_1333 ns_1_0_6000_1333 0.016324
rs_1_2_0_1_3 ns_1_0_6000_1333 ns_1_0_8000_1333 0.016324
rs_1_2_0_2_0 ns_1_0_0_2666 ns_1_0_2000_2666 0.016324
rs_1_2_0_2_1 ns_1_0_2000_2666 ns_1_0_4000_2666 0.016324
rs_1_2_0_2_2 ns_1_0_4000_2666 ns_1_0_6000_2666 0.016324
rs_1_2_0_2_3 ns_1_0_6000_2666 ns_1_0_8000_2666 0.016324
rs_1_2_0_3_0 ns_1_0_0_4000 ns_1_0_2000_4000 0.016324
rs_1_2_0_3_1 ns_1_0_2000_4000 ns_1_0_4000_4000 0.016324
rs_1_2_0_3_2 ns_1_0_4000_4000 ns_1_0_6000_4000 0.016324
rs_1_2_0_3_3 ns_1_0_6000_4000 ns_1_0_8000_4000 0.016324
rs_1_2_0_4_0 ns_1_0_0_5333 ns_1_0_2000_5333 0.016324
rs_1_2_0_4_1 ns_1_0_2000_5333 ns_1_0_4000_5333 0.016324
rs_1_2_0_4_2 ns_1_0_4000_5333 ns_1_0_6000_5333 0.016324
rs_1_2_0_4_3 ns_1_0_6000_5333 ns_1_0_8000_5333 0.016324
rs_1_2_0_5_0 ns_1_0_0_6666 ns_1_0_2000_6666 0.016324
rs_1_2_0_5_1 ns_1_0_2000_6666 ns_1_0_4000_6666 0.016324
rs_1_2_0_5_2 ns_1_0_4000_6666 ns_1_0_6000_6666 0.016324
rs_1_2_0_5_3 ns_1_0_6000_6666 ns_1_0_8000_6666 0.016324
rs_1_2_0_6_0 ns_1_0_0_8000 ns_1_0_2000_8000 0.016324
rs_1_2_0_6_1 ns_1_0_2000_8000 ns_1_0_4000_8000 0.016324
rs_1_2_0_6_2 ns_1_0_4000_8000 ns_1_0_6000_8000 0.016324
rs_1_2_0_6_3 ns_1_0_6000_8000 ns_1_0_8000_8000 0.016324
rs_1_2_0_7_0 ns_1_0_0_9333 ns_1_0_2000_9333 0.016324
rs_1_2_0_7_1 ns_1_0_2000_9333 ns_1_0_4000_9333 0.016324
rs_1_2_0_7_2 ns_1_0_4000_9333 ns_1_0_6000_9333 0.016324
rs_1_2_0_7_3 ns_1_0_6000_9333 ns_1_0_8000_9333 0.016324
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_666 nd_2_0_1000_2000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_2000 nd_2_0_1000_3333 0.016324
rd_2_1_0_0_2 nd_2_0_1000_3333 nd_2_0_1000_4666 0.016324
rd_2_1_0_0_3 nd_2_0_1000_4666 nd_2_0_1000_6000 0.016324
rd_2_1_0_0_4 nd_2_0_1000_6000 nd_2_0_1000_7333 0.016324
rd_2_1_0_0_5 nd_2_0_1000_7333 nd_2_0_1000_8666 0.016324
rd_2_1_0_1_0 nd_2_0_3000_666 nd_2_0_3000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_2000 nd_2_0_3000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_3000_3333 nd_2_0_3000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_3000_4666 nd_2_0_3000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_3000_6000 nd_2_0_3000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_3000_7333 nd_2_0_3000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_5000_666 nd_2_0_5000_2000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_2000 nd_2_0_5000_3333 0.016324
rd_2_1_0_2_2 nd_2_0_5000_3333 nd_2_0_5000_4666 0.016324
rd_2_1_0_2_3 nd_2_0_5000_4666 nd_2_0_5000_6000 0.016324
rd_2_1_0_2_4 nd_2_0_5000_6000 nd_2_0_5000_7333 0.016324
rd_2_1_0_2_5 nd_2_0_5000_7333 nd_2_0_5000_8666 0.016324
rd_2_1_0_3_0 nd_2_0_7000_666 nd_2_0_7000_2000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_2000 nd_2_0_7000_3333 0.016324
rd_2_1_0_3_2 nd_2_0_7000_3333 nd_2_0_7000_4666 0.016324
rd_2_1_0_3_3 nd_2_0_7000_4666 nd_2_0_7000_6000 0.016324
rd_2_1_0_3_4 nd_2_0_7000_6000 nd_2_0_7000_7333 0.016324
rd_2_1_0_3_5 nd_2_0_7000_7333 nd_2_0_7000_8666 0.016324
rd_2_1_0_4_0 nd_2_0_9000_666 nd_2_0_9000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_2000 nd_2_0_9000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_9000_3333 nd_2_0_9000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_9000_4666 nd_2_0_9000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_9000_6000 nd_2_0_9000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_9000_7333 nd_2_0_9000_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
rs_2_1_0_0_0 ns_2_0_0_0 ns_2_0_0_1333 0.016324
rs_2_1_0_0_1 ns_2_0_0_1333 ns_2_0_0_2666 0.016324
rs_2_1_0_0_2 ns_2_0_0_2666 ns_2_0_0_4000 0.016324
rs_2_1_0_0_3 ns_2_0_0_4000 ns_2_0_0_5333 0.016324
rs_2_1_0_0_4 ns_2_0_0_5333 ns_2_0_0_6666 0.016324
rs_2_1_0_0_5 ns_2_0_0_6666 ns_2_0_0_8000 0.016324
rs_2_1_0_0_6 ns_2_0_0_8000 ns_2_0_0_9333 0.016324
rs_2_1_0_1_0 ns_2_0_2000_0 ns_2_0_2000_1333 0.016324
rs_2_1_0_1_1 ns_2_0_2000_1333 ns_2_0_2000_2666 0.016324
rs_2_1_0_1_2 ns_2_0_2000_2666 ns_2_0_2000_4000 0.016324
rs_2_1_0_1_3 ns_2_0_2000_4000 ns_2_0_2000_5333 0.016324
rs_2_1_0_1_4 ns_2_0_2000_5333 ns_2_0_2000_6666 0.016324
rs_2_1_0_1_5 ns_2_0_2000_6666 ns_2_0_2000_8000 0.016324
rs_2_1_0_1_6 ns_2_0_2000_8000 ns_2_0_2000_9333 0.016324
rs_2_1_0_2_0 ns_2_0_4000_0 ns_2_0_4000_1333 0.016324
rs_2_1_0_2_1 ns_2_0_4000_1333 ns_2_0_4000_2666 0.016324
rs_2_1_0_2_2 ns_2_0_4000_2666 ns_2_0_4000_4000 0.016324
rs_2_1_0_2_3 ns_2_0_4000_4000 ns_2_0_4000_5333 0.016324
rs_2_1_0_2_4 ns_2_0_4000_5333 ns_2_0_4000_6666 0.016324
rs_2_1_0_2_5 ns_2_0_4000_6666 ns_2_0_4000_8000 0.016324
rs_2_1_0_2_6 ns_2_0_4000_8000 ns_2_0_4000_9333 0.016324
rs_2_1_0_3_0 ns_2_0_6000_0 ns_2_0_6000_1333 0.016324
rs_2_1_0_3_1 ns_2_0_6000_1333 ns_2_0_6000_2666 0.016324
rs_2_1_0_3_2 ns_2_0_6000_2666 ns_2_0_6000_4000 0.016324
rs_2_1_0_3_3 ns_2_0_6000_4000 ns_2_0_6000_5333 0.016324
rs_2_1_0_3_4 ns_2_0_6000_5333 ns_2_0_6000_6666 0.016324
rs_2_1_0_3_5 ns_2_0_6000_6666 ns_2_0_6000_8000 0.016324
rs_2_1_0_3_6 ns_2_0_6000_8000 ns_2_0_6000_9333 0.016324
rs_2_1_0_4_0 ns_2_0_8000_0 ns_2_0_8000_1333 0.016324
rs_2_1_0_4_1 ns_2_0_8000_1333 ns_2_0_8000_2666 0.016324
rs_2_1_0_4_2 ns_2_0_8000_2666 ns_2_0_8000_4000 0.016324
rs_2_1_0_4_3 ns_2_0_8000_4000 ns_2_0_8000_5333 0.016324
rs_2_1_0_4_4 ns_2_0_8000_5333 ns_2_0_8000_6666 0.016324
rs_2_1_0_4_5 ns_2_0_8000_6666 ns_2_0_8000_8000 0.016324
rs_2_1_0_4_6 ns_2_0_8000_8000 ns_2_0_8000_9333 0.016324
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_666 nd_2_0_1000_666 0.005
rvd_1_0_0_1 nd_1_0_3000_666 nd_2_0_3000_666 0.005
rvd_1_0_0_2 nd_1_0_5000_666 nd_2_0_5000_666 0.005
rvd_1_0_0_3 nd_1_0_7000_666 nd_2_0_7000_666 0.005
rvd_1_0_0_4 nd_1_0_9000_666 nd_2_0_9000_666 0.005
rvd_1_0_1_0 nd_1_0_1000_2000 nd_2_0_1000_2000 0.005
rvd_1_0_1_1 nd_1_0_3000_2000 nd_2_0_3000_2000 0.005
rvd_1_0_1_2 nd_1_0_5000_2000 nd_2_0_5000_2000 0.005
rvd_1_0_1_3 nd_1_0_7000_2000 nd_2_0_7000_2000 0.005
rvd_1_0_1_4 nd_1_0_9000_2000 nd_2_0_9000_2000 0.005
rvd_1_0_2_0 nd_1_0_1000_3333 nd_2_0_1000_3333 0.005
rvd_1_0_2_1 nd_1_0_3000_3333 nd_2_0_3000_3333 0.005
rvd_1_0_2_2 nd_1_0_5000_3333 nd_2_0_5000_3333 0.005
rvd_1_0_2_3 nd_1_0_7000_3333 nd_2_0_7000_3333 0.005
rvd_1_0_2_4 nd_1_0_9000_3333 nd_2_0_9000_3333 0.005
rvd_1_0_3_0 nd_1_0_1000_4666 nd_2_0_1000_4666 0.005
rvd_1_0_3_1 nd_1_0_3000_4666 nd_2_0_3000_4666 0.005
rvd_1_0_3_2 nd_1_0_5000_4666 nd_2_0_5000_4666 0.005
rvd_1_0_3_3 nd_1_0_7000_4666 nd_2_0_7000_4666 0.005
rvd_1_0_3_4 nd_1_0_9000_4666 nd_2_0_9000_4666 0.005
rvd_1_0_4_0 nd_1_0_1000_6000 nd_2_0_1000_6000 0.005
rvd_1_0_4_1 nd_1_0_3000_6000 nd_2_0_3000_6000 0.005
rvd_1_0_4_2 nd_1_0_5000_6000 nd_2_0_5000_6000 0.005
rvd_1_0_4_3 nd_1_0_7000_6000 nd_2_0_7000_6000 0.005
rvd_1_0_4_4 nd_1_0_9000_6000 nd_2_0_9000_6000 0.005
rvd_1_0_5_0 nd_1_0_1000_7333 nd_2_0_1000_7333 0.005
rvd_1_0_5_1 nd_1_0_3000_7333 nd_2_0_3000_7333 0.005
rvd_1_0_5_2 nd_1_0_5000_7333 nd_2_0_5000_7333 0.005
rvd_1_0_5_3 nd_1_0_7000_7333 nd_2_0_7000_7333 0.005
rvd_1_0_5_4 nd_1_0_9000_7333 nd_2_0_9000_7333 0.005
rvd_1_0_6_0 nd_1_0_1000_8666 nd_2_0_1000_8666 0.005
rvd_1_0_6_1 nd_1_0_3000_8666 nd_2_0_3000_8666 0.005
rvd_1_0_6_2 nd_1_0_5000_8666 nd_2_0_5000_8666 0.005
rvd_1_0_6_3 nd_1_0_7000_8666 nd_2_0_7000_8666 0.005
rvd_1_0_6_4 nd_1_0_9000_8666 nd_2_0_9000_8666 0.005
*-- via layer 1-2: net: 0 VSS net
rvs_1_0_0_0 ns_1_0_0_0 ns_2_0_0_0 0.005
rvs_1_0_0_1 ns_1_0_2000_0 ns_2_0_2000_0 0.005
rvs_1_0_0_2 ns_1_0_4000_0 ns_2_0_4000_0 0.005
rvs_1_0_0_3 ns_1_0_6000_0 ns_2_0_6000_0 0.005
rvs_1_0_0_4 ns_1_0_8000_0 ns_2_0_8000_0 0.005
rvs_1_0_1_0 ns_1_0_0_1333 ns_2_0_0_1333 0.005
rvs_1_0_1_1 ns_1_0_2000_1333 ns_2_0_2000_1333 0.005
rvs_1_0_1_2 ns_1_0_4000_1333 ns_2_0_4000_1333 0.005
rvs_1_0_1_3 ns_1_0_6000_1333 ns_2_0_6000_1333 0.005
rvs_1_0_1_4 ns_1_0_8000_1333 ns_2_0_8000_1333 0.005
rvs_1_0_2_0 ns_1_0_0_2666 ns_2_0_0_2666 0.005
rvs_1_0_2_1 ns_1_0_2000_2666 ns_2_0_2000_2666 0.005
rvs_1_0_2_2 ns_1_0_4000_2666 ns_2_0_4000_2666 0.005
rvs_1_0_2_3 ns_1_0_6000_2666 ns_2_0_6000_2666 0.005
rvs_1_0_2_4 ns_1_0_8000_2666 ns_2_0_8000_2666 0.005
rvs_1_0_3_0 ns_1_0_0_4000 ns_2_0_0_4000 0.005
rvs_1_0_3_1 ns_1_0_2000_4000 ns_2_0_2000_4000 0.005
rvs_1_0_3_2 ns_1_0_4000_4000 ns_2_0_4000_4000 0.005
rvs_1_0_3_3 ns_1_0_6000_4000 ns_2_0_6000_4000 0.005
rvs_1_0_3_4 ns_1_0_8000_4000 ns_2_0_8000_4000 0.005
rvs_1_0_4_0 ns_1_0_0_5333 ns_2_0_0_5333 0.005
rvs_1_0_4_1 ns_1_0_2000_5333 ns_2_0_2000_5333 0.005
rvs_1_0_4_2 ns_1_0_4000_5333 ns_2_0_4000_5333 0.005
rvs_1_0_4_3 ns_1_0_6000_5333 ns_2_0_6000_5333 0.005
rvs_1_0_4_4 ns_1_0_8000_5333 ns_2_0_8000_5333 0.005
rvs_1_0_5_0 ns_1_0_0_6666 ns_2_0_0_6666 0.005
rvs_1_0_5_1 ns_1_0_2000_6666 ns_2_0_2000_6666 0.005
rvs_1_0_5_2 ns_1_0_4000_6666 ns_2_0_4000_6666 0.005
rvs_1_0_5_3 ns_1_0_6000_6666 ns_2_0_6000_6666 0.005
rvs_1_0_5_4 ns_1_0_8000_6666 ns_2_0_8000_6666 0.005
rvs_1_0_6_0 ns_1_0_0_8000 ns_2_0_0_8000 0.005
rvs_1_0_6_1 ns_1_0_2000_8000 ns_2_0_2000_8000 0.005
rvs_1_0_6_2 ns_1_0_4000_8000 ns_2_0_4000_8000 0.005
rvs_1_0_6_3 ns_1_0_6000_8000 ns_2_0_6000_8000 0.005
rvs_1_0_6_4 ns_1_0_8000_8000 ns_2_0_8000_8000 0.005
rvs_1_0_7_0 ns_1_0_0_9333 ns_2_0_0_9333 0.005
rvs_1_0_7_1 ns_1_0_2000_9333 ns_2_0_2000_9333 0.005
rvs_1_0_7_2 ns_1_0_4000_9333 ns_2_0_4000_9333 0.005
rvs_1_0_7_3 ns_1_0_6000_9333 ns_2_0_6000_9333 0.005
rvs_1_0_7_4 ns_1_0_8000_9333 ns_2_0_8000_9333 0.005
id_0_0_0_0 nd_1_0_1000_666 0 0.00695094
id_0_0_0_1 nd_1_0_3000_666 0 0.024879
id_0_0_0_2 nd_1_0_5000_666 0 0.0116272
id_0_0_0_3 nd_1_0_7000_666 0 0.0140572
id_0_0_0_4 nd_1_0_9000_666 0 0.0163925
id_0_0_0_5 nd_1_0_1000_2000 0 0.0230679
id_0_0_0_6 nd_1_0_3000_2000 0 0.0254039
id_0_0_0_7 nd_1_0_5000_2000 0 0.0122565
id_0_0_0_8 nd_1_0_7000_2000 0 0.0145271
id_0_0_0_9 nd_1_0_9000_2000 0 0.0168305
id_0_0_0_10 nd_1_0_1000_3333 0 0.023701
id_0_0_0_11 nd_1_0_3000_3333 0 0.0103452
id_0_0_0_12 nd_1_0_5000_3333 0 0.0283158
id_0_0_0_13 nd_1_0_7000_3333 0 0.030634
id_0_0_0_14 nd_1_0_9000_3333 0 0.00181238
id_0_0_0_15 nd_1_0_1000_4666 0 0.0197189
id_0_0_0_16 nd_1_0_3000_4666 0 0.0264567
id_0_0_0_17 nd_1_0_5000_4666 0 0.0130986
id_0_0_0_18 nd_1_0_7000_4666 0 5.38619e-05
id_0_0_0_19 nd_1_0_9000_4666 0 0.0179717
id_0_0_0_20 nd_1_0_1000_6000 0 0.00479724
id_0_0_0_21 nd_1_0_3000_6000 0 0.0113119
id_0_0_0_22 nd_1_0_5000_6000 0 0.0293592
id_0_0_0_23 nd_1_0_7000_6000 0 0.0161822
id_0_0_0_24 nd_1_0_9000_6000 0 0.0184547
id_0_0_0_25 nd_1_0_1000_7333 0 0.0208221
id_0_0_0_26 nd_1_0_3000_7333 0 0.0275641
id_0_0_0_27 nd_1_0_5000_7333 0 0.0298234
id_0_0_0_28 nd_1_0_7000_7333 0 0.00110436
id_0_0_0_29 nd_1_0_9000_7333 0 0.0188902
id_0_0_0_30 nd_1_0_1000_8666 0 0.00583956
id_0_0_0_31 nd_1_0_3000_8666 0 0.0126052
id_0_0_0_32 nd_1_0_5000_8666 0 0.0150327
id_0_0_0_33 nd_1_0_7000_8666 0 0.00170706
id_0_0_0_34 nd_1_0_9000_8666 0 0.00396069
is_0_0_0_0 0 ns_1_0_0_0 0.0224688
is_0_0_0_1 0 ns_1_0_2000_0 0.0244825
is_0_0_0_2 0 ns_1_0_4000_0 0.00373707
is_0_0_0_3 0 ns_1_0_6000_0 0.0189647
is_0_0_0_4 0 ns_1_0_8000_0 0.00770087
is_0_0_0_5 0 ns_1_0_0_1333 0.00961083
is_0_0_0_6 0 ns_1_0_2000_1333 0.0116695
is_0_0_0_7 0 ns_1_0_4000_1333 0.0136947
is_0_0_0_8 0 ns_1_0_6000_1333 0.0193494
is_0_0_0_9 0 ns_1_0_8000_1333 0.00820731
is_0_0_0_10 0 ns_1_0_0_2666 0.0232737
is_0_0_0_11 0 ns_1_0_2000_2666 0.0252978
is_0_0_0_12 0 ns_1_0_4000_2666 0.000974618
is_0_0_0_13 0 ns_1_0_6000_2666 0.00674801
is_0_0_0_14 0 ns_1_0_8000_2666 0.00863307
is_0_0_0_15 0 ns_1_0_0_4000 0.0237574
is_0_0_0_16 0 ns_1_0_2000_4000 0.0257535
is_0_0_0_17 0 ns_1_0_4000_4000 0.00132386
is_0_0_0_18 0 ns_1_0_6000_4000 0.0202061
is_0_0_0_19 0 ns_1_0_8000_4000 0.00924672
is_0_0_0_20 0 ns_1_0_0_5333 0.0110152
is_0_0_0_21 0 ns_1_0_2000_5333 0.0261875
is_0_0_0_22 0 ns_1_0_4000_5333 0.00187316
is_0_0_0_23 0 ns_1_0_6000_5333 0.0207189
is_0_0_0_24 0 ns_1_0_8000_5333 0.0226553
is_0_0_0_25 0 ns_1_0_0_6666 0.0247103
is_0_0_0_26 0 ns_1_0_2000_6666 0.000320864
is_0_0_0_27 0 ns_1_0_4000_6666 0.00236461
is_0_0_0_28 0 ns_1_0_6000_6666 0.0211651
is_0_0_0_29 0 ns_1_0_8000_6666 0.0232378
is_0_0_0_30 0 ns_1_0_0_8000 0.0119983
is_0_0_0_31 0 ns_1_0_2000_8000 0.0138913
is_0_0_0_32 0 ns_1_0_4000_8000 0.00284861
is_0_0_0_33 0 ns_1_0_6000_8000 0.00477808
is_0_0_0_34 0 ns_1_0_8000_8000 0.0103643
is_0_0_0_35 0 ns_1_0_0_9333 0.0124385
is_0_0_0_36 0 ns_1_0_2000_9333 0.0143741
is_0_0_0_37 0 ns_1_0_4000_9333 0.0162668
is_0_0_0_38 0 ns_1_0_6000_9333 0.0183321
is_0_0_0_39 0 ns_1_0_8000_9333 0.0109146

*-- intentional decap
cd_add_cap0 nd_1_0_3000_2000 nd0 'dcap_int_val120'
cd_add_cap1 nd_1_0_7000_2000 nd1 'dcap_int_val121'
cd_add_cap2 nd_1_0_3000_4666 nd2 'dcap_int_val122'
cd_add_cap3 nd_1_0_7000_4666 nd3 'dcap_int_val123'
cd_add_cap4 nd_1_0_3000_7333 nd4 'dcap_int_val124'
cd_add_cap5 nd_1_0_7000_7333 nd5 'dcap_int_val125'
rd_add0 nd0 0 'esr1'
rd_add1 nd1 0 'esr2'
rd_add2 nd2 0 'esr3'
rd_add3 nd3 0 'esr4'
rd_add4 nd4 0 'esr5'
rd_add5 nd5 0 'esr6'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xs_pad_0_0 ns_pad_port_0_0 ns_pad_0_0 ubump_subckt
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xs_pad_0_2 ns_pad_port_0_2 ns_pad_0_2 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xs_pad_0_4 ns_pad_port_0_4 ns_pad_0_4 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xs_pad_1_1 ns_pad_port_1_1 ns_pad_1_1 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xs_pad_1_3 ns_pad_port_1_3 ns_pad_1_3 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xs_pad_1_5 ns_pad_port_1_5 ns_pad_1_5 ubump_subckt
xs_pad_2_0 ns_pad_port_2_0 ns_pad_2_0 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xs_pad_2_2 ns_pad_port_2_2 ns_pad_2_2 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xs_pad_2_4 ns_pad_port_2_4 ns_pad_2_4 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xs_pad_3_1 ns_pad_port_3_1 ns_pad_3_1 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xs_pad_3_3 ns_pad_port_3_3 ns_pad_3_3 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xs_pad_3_5 ns_pad_port_3_5 ns_pad_3_5 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rs_pad2via_0_0 ns_pad_0_0 ns_2_0_2000_1333  0.001
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3333  0.001
rs_pad2via_0_2 ns_pad_0_2 ns_2_0_2000_4000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_6000  0.001
rs_pad2via_0_4 ns_pad_0_4 ns_2_0_2000_6666  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_2000  0.001
rs_pad2via_1_1 ns_pad_1_1 ns_2_0_4000_2666  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_4666  0.001
rs_pad2via_1_3 ns_pad_1_3 ns_2_0_4000_5333  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_7333  0.001
rs_pad2via_1_5 ns_pad_1_5 ns_2_0_4000_8000  0.001
rs_pad2via_2_0 ns_pad_2_0 ns_2_0_6000_1333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3333  0.001
rs_pad2via_2_2 ns_pad_2_2 ns_2_0_6000_4000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_6000  0.001
rs_pad2via_2_4 ns_pad_2_4 ns_2_0_6000_6666  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_2000  0.001
rs_pad2via_3_1 ns_pad_3_1 ns_2_0_8000_2666  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_4666  0.001
rs_pad2via_3_3 ns_pad_3_3 ns_2_0_8000_5333  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_7333  0.001
rs_pad2via_3_5 ns_pad_3_5 ns_2_0_8000_8000  0.001

.ends chiplet1
